US07723330B2
Step B: Preparation of 4-chloro-1H-pyrazolo[3,4-b]pyridine:
4-chloro-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridine (1.506 g, 5.502 mmol) was dissolved in neat TFA (8.478 ml, 110.0 mmol) and the reaction mixture was stirred at 75° C. for 2 hours. The reaction mixture was concentrated to a dark yellow oil and MeOH was added to give a thick white precipitate that was filtered and washed with MeOH. The filtrate, which contained the desired product, was concentrated to a yellow oil that was dried in vacuo overnight to yield a yellow waxy solid. The crude solid was partitioned between EtOAc and saturated NaHCO3. The phases were separated, and the aqueous layer was re-extracted with EtOAc (1×). The combined organic phases were dried over Na2SO4, filtered and concentrated to yield the desired product (0.845 g, 100%) as a yellow solid. LRMS (APCI pos) m/e 154, 156 (M+, Cl pattern).

reactant | 4-chloro-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridine | 5.502 mmol, 1.506 g | ClC1=C2C(=NC=C1)N(N=C2)CC2=CC=C(C=C2)OC | C14H12ClN3O
reactant | TFA | 110.0 mmol, 8.478 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | 4-chloro-1H-pyrazolo[3,4-b]pyridine | 0.845 g, 100% | ClC1=C2C(=NC=C1)NN=C2 | C6H4ClN3
